US03975310
b. 2,6,6-Trimethyl-1-[1-hydroxy-2-butenyl]-1-cyclohexene
In an atmosphere of nitrogen, a solution of 280 g. of 1-bromopropene in 430 ml. of tetrahydrofuran was added dropwise at 63°-65° into a suspension of 53.3 g. of magnesium turnings in 660 ml. of tetrahydrofuran. During the addition the reflux condenser fitting the reaction vessel was cooled to -40° to -50° in order to prevent escaping of the vapours of unreacted 1 -bromopropene. The mixture was stirred for an additional 21/2 hours at 60°-62° after which it was cooled to 0°. A solution of 278 g. of β-cyclocitral in 350 ml. of tetrahydrofuran was then added dropwise between 0° and 7°. The mixture was allowed to stand overnight then it was poured onto a mixture of ice and saturated aqueous NH4Cl solution. The organic layer was removed and the aqueous phase extracted with petroleum-ether (b.p. 30°-50°). The combined extracts were washed as usual, dried and then evaporated under vacuum. The residue gave 350 g. of crude 2,6,6-trimethyl-1-[1-hydroxy-2-butenyl]-1-cyclohexene which was used without further purification.

reactant | 1-bromopropene | BrC=CC | C3H5Br
reactant | magnesium | [Mg] | Mg
reactant | β-cyclocitral | CC1=C(C(CCC1)(C)C)C=O | C10H16O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,6,6-Trimethyl-1-[1-hydroxy-2-butenyl]-1-cyclohexene | CC1=C(C(CCC1)(C)C)C(C=CC)O | C13H22O
